data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
262,286,[CH2-:12][N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N:13][CH2:12]3,water,298.15,8.488719708975353,-71.64409656414038
335,364,[CH3:1][O:2][C:3]#[C:4][C:5]#[N:6].[CH3:7][O:8][C:9](=[O:10])[C:11]([C:12](=[O:13])[O:14][CH3:15])=[N+:16]([CH3:17])[N-:18][C:19]#[N:20]>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[N:18]([C:19]#[N:20])[N:16]([CH3:17])[C:11]1([C:9]([O:8][CH3:7])=[O:10])[C:12](=[O:13])[O:14][CH3:15],water,298.15,25.974005173086123,-30.05288398473712
3108,3499,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6]#[N+:7][C-:8]([C:9]([CH3:10])=[O:11])[C:12](=[O:13])[NH:14][CH3:15]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:8]([C:9]([CH3:10])=[O:11])([C:12](=[O:13])[NH:14][CH3:15])[N:7]=[C:6]1[CH3:5],water,298.15,21.58098199544305,-27.94715727450175
1089,1187,[CH2-:15][NH+:16]=[C:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[NH:23][CH3:24].[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[Cl:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:17]([C:18]([CH3:19])=[O:20])([C:21](=[O:22])[NH:23][CH3:24])[NH:16][CH2:15]2,water,298.15,12.521936416946785,-21.93760744563124
3917,4481,[CH3:9][C:10](=[O:11])[C:12]([CH3:13])=[O+:14][N-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[O:14][C:12]1([C:10]([CH3:9])=[O:11])[CH3:13],water,298.15,7.862663258269119,-35.17805693326704
1232,1343,[CH3:16][O:17][C:18](=[O:19])[c-:20]1[o+:21][n:22][o:23][c:24]1=[O:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[O:9][CH3:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:20]1([C:18]([O:17][CH3:16])=[O:19])[O:21][N:22]2[O:23][C:24]1=[O:25],water,298.15,31.355672460849128,-11.06568672541632
4933,5619,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([CH3:18])[C:19](=[O:20])[O:21][CH3:22])[C:23](=[O:24])[NH:25][CH3:26]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:23](=[O:24])[NH:25][CH3:26])[NH:16][C:17]2([CH3:18])[C:19](=[O:20])[O:21][CH3:22],water,298.15,32.52620282556299,-3.936173975365151
3027,3384,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[c:7]1[o:8][c:9](=[O:10])[c-:11]([C:12]#[N:13])[o+:14]1>>[CH2:1]1[CH2:2][C:11]2([C:12]#[N:13])[C:9](=[O:10])[O:8][C:7]1([C:5]([O:4][CH3:3])=[O:6])[O:14]2,water,298.15,12.194107678304766,-31.960974549253542
1426,1568,[CH3:12][n+:13]1[c:14]([C:15]#[N:16])[o:17][c:18](=[O:19])[c-:20]1-[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Cl:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:14]1([C:15]#[N:16])[N:13]([CH3:12])[C:20]2([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[C:18](=[O:19])[O:17]1,water,298.15,25.82938488196203,6.622302986061567
1407,1549,[CH2-:11][O+:12]=[C:13]([C:14](=[O:15])[NH:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[CH2:11][O:12][C:13]3([C:14](=[O:15])[NH:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,7.752459911782523,-74.26716142591269
4754,5429,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][N-:16][N+:17]([CH3:18])=[C:19]([C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:16]([CH3:15])[N:17]([CH3:18])[C:19]2([C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,24.167852717388893,7.952232317932715
1164,1265,[CH3:18][CH:19]=[N+:20]([CH3:21])[C-:22]([CH3:23])[C:24]#[N:25].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH2:14][CH2:15][CH:16]1[CH2:17]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH2:14][CH2:15][CH:16]1[CH2:17]3)[C:22]([CH3:23])([C:24]#[N:25])[N:20]([CH3:21])[CH:19]2[CH3:18],water,298.15,18.103439507480253,-17.955122614830323
